US06624159B2
N-(4-Chlorobenzyl)-2-(hydroxymethyl)-8-iodo-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide [G.7, X=Cl]
A mixture of 4-chlorobenzylamine (2 mL) and ethyl 2-((acetyloxy)methyl)-8-iodo-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate (Preparation 9, 0.70 g) is heated to 120° C. under a stream of nitrogen for 7 h, to 100° C. for 18 h, and then to 130° C. for 8 hours. Upon cooling, the mixture is diluted with a mixture of CH2Cl2, EtOAc, and methanol (2/2/1) and absorbed onto silica gel. This material is chromatographed eluting with 0-4% methanol in CH2Cl2 to give a wet brown solid. The crude product is recrystallized by dissolving in hot acetic acid and slowly adding water until cloudiness persisted. Upon standing, crystals form which are collected to provide 340 mg (43%) of the title compound as a tan solid. Physical characteristics: M.p. 222-223° C.; MS (ESI+) m/z 495 (M+H)+.

reactant | 4-chlorobenzylamine | 2 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | ethyl 2-((acetyloxy)methyl)-8-iodo-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate | 0.70 g | C(C)(=O)OCC1CC=2C=C(C=C3C(C(=CN1C23)C(=O)OCC)=O)I | C17H16INO5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | CO | CH4O
product | N-(4-Chlorobenzyl)-2-(hydroxymethyl)-8-iodo-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 340 mg, 43% | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)I)CC3CO)C=C1 | C20H16ClIN2O3
